US04973599
2-[(4-Nitrophenyl)thio]pyrimidine
A mixture of 1.12 g (10 mmoles) of 2-mercaptopyrimidine, 1.4 (10 mmoles) of 1-fluoro-4-nitrobenzene, 0.5 of potassium hydroxide and 10 ml of dimethylsulfoxide were heated at 120°-130° C. for 6 hours and then cooled. After pouring into a mixture of ice, water and sodium chloride the mixture was allowed to stand for 30 minutes and then filtered. The solid was washed with water, air dried and chromatographed on silica gel using ethyl acetate/hexane (1:1 by volume) as the eluent. The fractions containing the product were combined and concentrated to give 1 g (43%) of the product as yellow rods, mp 103°-104° C.

reactant | 2-mercaptopyrimidine | 10 mmoles, 1.12 g | SC1=NC=CC=N1 | C4H4N2S
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-[(4-Nitrophenyl)thio]pyrimidine | 1 g, 43% | [N+](=O)([O-])C1=CC=C(C=C1)SC1=NC=CC=N1 | C10H7N3O2S
